US06677378B2
2-(3,4-Dichlorophenoxy)-5-Fluoro-Benzylamine
A flame-dried flask containing N2 inlet and magnetic stirrer was charged with 3.0 mL of 2.0 M borane methyl sulfide complex in THF (6.0 mmol, Aldrich Chem. Co.), followed by an additional 10 mL of anhydrous THF at room temperature. While stirring, 0.562 g (2.0 mmol) of 2-(3,4-dichlorophenoxy)-5-fluoro-benzonitrile (title compound of Preparation 37) was added slowly via syringe, causing some mild foaming. After the addition, the reaction was heated at reflux for a total of 3 hr, and a tlc (CHCl3:CH3OH:conc. NH4OH, 95:5:1) showed no starting material remaining. With ice bath cooling, the reaction was quenched using 10 mL of 6N HCl, heated to reflux an additional 1 hr to break the boron complex and slowly made basic with saturated aqueous Na2CO3. The mixture was diluted with water and EtOAc, the organic layer was combined with a second EtOAc extraction of the aqueous layer and then washed with water and saturated aqueous NaCl. After drying over MgSO4, the solvent was removed in vacuo to give a yellow tan oil, 0.676 g. The oil was partitioned between Et2O and 6N HCl, the Et2O layer was reextracted with 6N HCl and the aqueous layers were combined, made basic with aqueous Na2CO3 and reextracted with Et2O. These latter organic extracts were dried (MgSO4) and concentrated in vacuo to a tan oil, 0.538 g.

reactant | 2-(3,4-dichlorophenoxy)-5-fluoro-benzonitrile | 2.0 mmol, 0.562 g | ClC=1C=C(OC2=C(C#N)C=C(C=C2)F)C=CC1Cl | C13H6Cl2FNO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 6.0 mmol | C1CCOC1 | C4H8O
product | 2-(3,4-Dichlorophenoxy)-5-Fluoro-Benzylamine | ClC=1C=C(OC2=C(CN)C=C(C=C2)F)C=CC1Cl | C13H10Cl2FNO
